US04678739
(3) Synthesis of 1-Acetyl-3-bromomethylindazole
A mixture of 320 g (1.84 mol) of 1-acetyl-3-methylindazole, 327 g (1.84 mol) of N-bromosuccinimide and 3 liters of carbon tetrachloride solution containing 0.2 g of benzoyl peroxide was refluxed over a 2-hour period as the mixture was irradiated with light. After cooling to room temperature, 0.2 g of benzoyl peroxide was further added, and the reaction mixture was refluxed for additional three hours. After conclusion of the refluxing step, the reaction mixture was cooled to 20° C. to precipitate succinimide. The precipitate of succinimide was filtered out, and the filtrate was concentrated under reduced pressure. To the residue was added 1.2 liters of n-hexane to precipitate crystals. The crystals was filtered off, and washed with n-hexane. Thus, 275 g of crude bromomethyl body was obtained. It was found from measurements of thin-layer chromatograph and NMR spectrum that the crude bromomethyl body was contaminated by about 17% of dibromomethyl body.

reactant | 1-acetyl-3-methylindazole | 1.84 mol, 320 g | C(C)(=O)N1N=C(C2=CC=CC=C12)C | C10H10N2O
reactant | N-bromosuccinimide | 1.84 mol, 327 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.2 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | benzoyl peroxide | 0.2 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 3 liters | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Acetyl-3-bromomethylindazole | C(C)(=O)N1N=C(C2=CC=CC=C12)CBr | C10H9BrN2O
